US08729105B2
Preparation of 5-(4-chlorophenyl)-N-((1-(cyclopropylmethyl)-1H-pyrazol-3-yl)methyl)-6-(2,2,2-trifluoroethoxy)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid (CAN 1018782-82-5) and (1-(cyclopropylmethyl)-1H-pyrazol-3-yl)methanamine (example BW) as starting materials, MS (EI) 465.3 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C14H9ClF3NO3
reactant | (1-(cyclopropylmethyl)-1H-pyrazol-3-yl)methanamine | C1(CC1)CN1N=C(C=C1)CN | C8H13N3
product | 5-(4-chlorophenyl)-N-((1-(cyclopropylmethyl)-1H-pyrazol-3-yl)methyl)-6-(2,2,2-trifluoroethoxy)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NN(C=C2)CC2CC2)C1)OCC(F)(F)F | C22H20ClF3N4O2
